US04243814
Following the same mode of operation as in the above example, starting with 0.14 g (approx. 10-3 mol) of α-hydroxyphenyl propionitrile in 2 ml of 0.1 M solution in KCN and 0.2 M in NH4OH 10 N, and after adding 0.06 g of acetone and 0.11 ml of NaOH 10 N after neutralisation, quantitative analysis by an analyst of α-amino acids gave a yield of 85% of phenyl alanine.

reactant | α-hydroxyphenyl propionitrile | approx. 10-3 mol, 0.14 g | OC(C#N)(C)C1=CC=CC=C1 | C9H9NO
reactant | acetone | 0.06 g | CC(=O)C | C3H6O
reactant | NaOH | 10 N, 0.11 ml | [OH-].[Na+]
reactant | NH4OH | 10 N | [NH4+].[OH-]
solvent | KCN | [C-]#N.[K+]
product | phenyl alanine | yield of 85% | C1(=CC=CC=C1)N[C@@H](C)C(=O)O | C9H11NO2
